* AD8014 SPICE model
* Description: Amplifier
* Generic Desc: 400 MHz low power high speed op amp
* Developed by: Steve Reine/Eberhard Brunner
* Revision History: 08/10/2012 - Updated to new header style
*
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*
* Parameters modeled include:
*
* END Notes
*
* Node assignments
*                        non-inverting input
*                        |  inverting input
*                        |  |  positive supply
*                        |  |  |   negative supply
*                        |  |  |   |  output
*                        |  |  |   |  |
.SUBCKT AD8014 		 1  2  99  50 28


***** Input stage

q1  50  3  5  qp1
q2  99  5  4  qn1
q3  99  3  6  qn1
q4  50  6  4  qp1
v1   4  2  0
i1  99  5  0.299e-3
i2   6  50 0.299e-3
cin1  1  98 1e-12
cin2  2  98 2.3e-12



***** Input error sources

Vos    3  1  2e-3
*fbn   2  98 poly(1) vnoise3 5e-6 1e-3
*fbp   1  98 poly(1) vnoise3 5e-6 1e-3



***** Gain stage

f1    98  7 poly(1) v1 0 1.12 0 100
rgain 7  98 1.3e6
cgain 7  98 1.85e-12
vcl1  99 8  0.52
vcl2  9  50 0.52
dcl1  7  8  d1
dcl2  9  7  d1

gcm 98 7 poly(2) 98 0 30 0 0 1e-5 1e-5



***** Second Pole

epole2 14 98 7 98 1
rpole2 14 15 1
cpole2 15 98 270e-12



***** Third Pole at 1.2GHz

epole3 17 98 15 98 1
rpole3 17 16 1
cpole3 16 98 133e-12



***** Reference stage

eref   98 0 poly(2) 99 0 50 0 0 0.5 0.5
ecmref 30 0 poly(2) 1 0 2 0 0 0.5 0.5



***** VNoise stage

*rnoise1 19 98 10.6e-3
*vnoise1 19 98 0
*vnoise2  21 98 0.53
*dnoise1 21 19 dn

*fnoise1 20 98 vnoise3 1
*rnoise2 23 98 1



***** INoise stage

*rnoise3 22 98 0.46e-3
*vnoise3 22 98 0
*vnoise4 24 98 0.6
*dnoise2 24 22 dn

*fnoise2 23 98 vnoise3 1
*rnoise4 23 98 1



***** Buffer stage

gbuf 98 13 16 98 1e-2
rbuf 98 13 1e2



***** Output current reflected to supplies

fcurr 98 40 voc 1
vcur1 26 98 0
vcur2 98 27 0
dcur1 40 26 d1
dcur2 27 40 d1



***** Output stage

rout1 10 90 .2
rout2 10 91 .2
vo1 99 90 0
vo2 91 50 0
voc 10 28 0
fout1 0  99 poly(2) vo1 vcur1 0 1 -1
fout2 50 0  poly(2) vo2 vcur2 0 1 -1
rout3 28 98 1e6
gout1 10 90 99 13 5
gout2 10 91 50 13 5

vcl3 10 11 -0.795
vcl4 12 10 -0.795
dcl4 11 13 d1
dcl3 13 12 d1



.model qp1 pnp()
.model qn1 npn()
.model d1 d()
.model dn d()
.ends ad8014



